US08748426B2
Methyl 4-(3-cyanopentan-3-yl)benzoate
To a solution of potassium tert-butoxide (4.81 g) in THF (15 mL) at −30° C. was added a solution of ethyl iodide (4.11 mL) and methyl 4-(cyanomethyl)benzoate (3 g) THF (15 mL) under nitrogen atmosphere over 20 min. The reaction mixture was allowed to warm to room temperature and stirred for 2 h. The reaction was quenched by the addition of water (10 mL) and ethyl acetate was added. The organic layer was washed successively with water, brine and dried over anhydrous sodium sulfate. The organic solvent was removed to obtain a residue, which was purified by column chromatography (silicagel, 20% ethyl acetate in petroleum ether) to obtain a crude solid. The crude solid was crystallized using chloroform in petroleum ether to afford the title compound.

reactant | potassium tert-butoxide | 4.81 g | CC(C)([O-])C.[K+]
reactant | ethyl iodide | 4.11 mL | C(C)I | C2H5I
reactant | methyl 4-(cyanomethyl)benzoate | 15 mL, 3 g | C(#N)CC1=CC=C(C(=O)OC)C=C1 | C10H9NO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Methyl 4-(3-cyanopentan-3-yl)benzoate | C(#N)C(CC)(CC)C1=CC=C(C(=O)OC)C=C1 | C14H17NO2
